US06525049B2
N-(4-Chlorobenzyl)-2-[(ethylsulfanyl)methyl]-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide
To a flame-dried flask under a nitrogen atmosphere is added N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (269 mg) of Preparation 26, PdCl2(PPh3)2 (35 mg), and CuI (12 mg). The flask is back-filled with nitrogen gas and charged with dichloromethane (5 mL), Et3N (0.15 mL), and propargyl ethyl sulfide (0.066 mL). The reaction is stirred at room temperature for 4 days. The reaction mixture is diluted with dichloromethane and partitioned against dilute aqueous sodium bicarbonate. The aqueous phase is extracted with two portions of dichloromethane. The combined organic layers are washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue is chromatographed on silica gel eluting with 1% to 2% methanol in ethyl acetate. Product containing fractions are combined and condensed to afford a mixture of cyclized and uncyclized materials. To a flask is added the mixture, EtOH (2 mL), and Et3N (0.1 mL). The suspension is heated at 75° C. overnight tightly capped. The reaction mixture is cooled to room temperature, concentrated under reduced pressure, adsorbed onto silica, and flash column chromatographed eluting with 2% to 4% methanol in ethyl acetate. Product-containing fractions are combined and concentrated under reduced pressure to afford a solid. The solid is crystallized from acetonitrile to give 0.12 g of the title compound as light tan product.

reactant | N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 269 mg | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CN2CCOCC2)I)C=C1 | C22H21ClIN3O3
reactant | Et3N | 0.15 mL | CCN(CC)CC | C6H15N
reactant | propargyl ethyl sulfide | 0.066 mL | C(C)SCC#C | C5H8S
reactant | EtOH | 2 mL | CCO | C2H6O
reactant | Et3N | 0.1 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 12 mg | [Cu]I
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(4-Chlorobenzyl)-2-[(ethylsulfanyl)methyl]-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 0.12 g | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)CN2CCOCC2)C=C3CSCC)C=C1 | C27H28ClN3O3S
